US03931198
A solution of 106.8 grams of sodium bisulphite in 130 ml. of water is added dropwise with stirring over 30 minutes to a stirred mixture of 100 grams of 3,5-dimethylcyclohexanone, 67.0 grams of potassium cyanide and 170 ml. of water. The reaction mixture is kept below 40° C. by means of a cold water bath. The reaction mixture is stirred for an additional 2 hours, the organic layer separated and the aqueous layer extracted with 250 ml. of ether three times. The combined organic layer and ether solutions are dried over magnesium sulfate and concentrated at reduced pressure to yield 40.3 grams of 1-hydroxy-3,5-dimethyl-cyclohexanecarbonitrile.

reactant | sodium bisulphite | 106.8 grams | S([O-])(O)=O.[Na+]
reactant | 3,5-dimethylcyclohexanone | 100 grams | CC1CC(CC(C1)C)=O | C8H14O
reactant | potassium cyanide | 67.0 grams | [C-]#N.[K+]
solvent | water | O | H2O
product | 1-hydroxy-3,5-dimethyl-cyclohexanecarbonitrile | 40.3 grams | OC1(CC(CC(C1)C)C)C#N | C9H15NO
